US07563820B2
3,4-Bis-(t-butyldimethylsilyloxy)cinnamyl alcohol (7.88 g, 20 mmol) was dissolved in 1000 mL CH2Cl2, 17.2 g activated MnO2 (200 mmol) were added and the mixture was vigorously stirred for 24 h at 20° C. MnO2 was filtered off and the filtrate was taken to dryness. To the obtained 3,4-bis(tBDMS)caffeoyl aldehyde 250 mL of CHCl3 was added followed by addition of n-Bu4NF monohydrate (11.6 g, 40 mmol). The mixture was stirred at 20° C. for 30 min and worked up with 300 mL of 5% HCl. Chloroform layer was separated, washed with H2O, dried with Na2SO4 and taken to dryness. The residue was purified on a silica gel column, eluent MeOH—CHCl3, 1:4+1% AcOH. The solvents were evaporated and the crystalline residue was washed with CHCl3 to give caffeoyl aldehyde (1.77 g, 54%). M.p. 200 -202° C., λmax 222, 239, 249, 342 nm. 1H-NMR (δ, ppm): 6.54 (dd, 1H, J 7.7 and 15.8 Hz, Hα), 6.91 (d, 1H, J 8.2 Hz, H5), 7.12 (br.d, 1H, J 8.2 Hz, H6), 7.21 (br.s, 1H, H2), 7.52 (d, 1H, J 15.8 Hz, H), 9.62 (d, 1H, J 7.7 Hz, CHO).

reactant | 3,4-Bis-(t-butyldimethylsilyloxy)cinnamyl alcohol | 20 mmol, 7.88 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CCO)C=CC1O[Si](C)(C)C(C)(C)C | C21H38O3Si2
reactant | HCl | 300 mL | Cl | ClH
solvent | CH2Cl2 | 1000 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 200 mmol, 17.2 g | O=[Mn]=O
product | caffeoyl aldehyde | 1.77 g, 54% | C1=CC(=C(C=C1/C=C/C=O)O)O | C9H8O3
